US06251911B1
A mixture of 35 g (108.9 mmol) of 3-[2-(Boc-amino)-ethylamino]-4-cyano-5-dimethylamino-methyleneamino-pyrazole, 17.9 g (109.1 mmol) of 3-chloro-aniline hydrochloride and 350 ml of methanol is heated under reflux for 30 hours and then stirred at RT for 15 hours. Filtration and washing the filter residue with methanol yield 3-[2-(tert-butyloxy-carbonyl-amino)-ethylamino]-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine having a water content of 2.39%; m.p. 206-208° C.; ESI-MS: (M−H)−=402.

reactant | 3-[2-(Boc-amino)-ethylamino]-4-cyano-5-dimethylamino-methyleneamino-pyrazole | 108.9 mmol, 35 g | C(=O)(OC(C)(C)C)NCCNC1=NN(C(=C1C#N)N(C)C)N=C | C14H23N7O2
reactant | 3-chloro-aniline hydrochloride | 109.1 mmol, 17.9 g | Cl.ClC=1C=C(N)C=CC1
solvent | methanol | 350 ml | CO | CH4O
product | 3-[2-(tert-butyloxy-carbonyl-amino)-ethylamino]-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | C(C)(C)(C)OC(=O)NCCNC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C18H22ClN7O2
